US05292760
2-Amino-4-chloro-N-methyl-α-(3-methyl-2-thienyl)benzeneethanamine dihydrochloride
A solution of 10 g of α-(3-methyl-2-thienyl)-N-methyl-4-chloro-2-nitrobenzeneethana mine in 150 ml of 95% ethanol and 40 ml water was treated with 22 g of reduced electrolytic iron and 1 ml of concentrated hydrochloric acid, and the mixture was refluxed for 0.5 hr, with stirring. The resulting mixture was filtered, and the filter cake was washed with 95% ethanol. The filtrate was basified with 10% sodium hydroxide solution, extracted with dichloromethane and the organic phase was dried over anhydrous sodium sulfate, filtered, and concentrated. Purification of the residue was accomplished by preparative HPLC (Water's Associates Prep LC/System 500A, silica gel, eluted with methanol, flow rate of 200 ml/min, Gow-Mac Model 80-800 UV detector). The appropriate fractions were collected, combined and concentrated. The residue was dissolved in ether, the solution was filtered, and the filtrate was concentrated. The residue was dissolved in methanol, a few drops of ethereal hydrogen chloride was added followed by anhydrous ethyl ether dropwise until a precipitate appeared. The precipitate was collected, and the filter cake was recrystallized from methanol and anhydrous ether to afford 8.4 g of product.

reactant | α-(3-methyl-2-thienyl)-N-methyl-4-chloro-2-nitrobenzeneethana mine | 10 g | CC1=C(SC=C1)C(CC1=C(C=C(C=C1)Cl)[N+](=O)[O-])NC | C14H15ClN2O2S
reactant | hydrochloric acid | 1 ml | Cl | ClH
solvent | ethanol | 150 ml | C(C)O | C2H6O
solvent | water | 40 ml | O | H2O
catalyst | iron | 22 g | [Fe] | Fe
product | 2-Amino-4-chloro-N-methyl-α-(3-methyl-2-thienyl)benzeneethanamine dihydrochloride | 8.4 g | Cl.Cl.NC1=C(C=CC(=C1)Cl)CC(NC)C=1SC=CC1C | InChI=1S/C14H17ClN2S.2ClH/c1-9-5-6-18-14(9)13(17-2)7-10-3-4-11(15)8-12(10)16;;/h3-6,8,13,17H,7,16H2,1-2H3;2*1H
